US08207164B2
b) 2-Amino-2-(3-bromo-phenyl)-propane-1,3-diol
A solution of 2-(3-bromo-phenyl)-2-nitro-propane-1,3-diol (6.79 g, 24.59 mmol) in 100 ml of EtOH was hydrogenated in the presence of 5 g of Raney-Ni. When the take-up of hydrogen had ceased, the mixture was filtered through Celite, and the filtrate was chromatographed on silica gel (EtOAc/MeOH/25% aqueous NH3, 5%) to give the title compound in the form of a colourless solid. TLC (EtOAc/MeOH/25% aqueous NH3, 5%): Rf=0.24; HPLC: RtH2=2.354 min; 1H-NMR (400 MHz, CD3OD): 7.73 (s, 1H), 7.50 (d, 1H), 7.44 (d, 1H), 7.29 (t, 1H), 3.79 (d, 2H), 3.72 (d, 2H); MS: 246, 248 [(M+H)+].

reactant | 2-(3-bromo-phenyl)-2-nitro-propane-1,3-diol | 24.59 mmol, 6.79 g | BrC=1C=C(C=CC1)C(CO)(CO)[N+](=O)[O-] | C9H10BrNO4
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 100 ml | CCO | C2H6O
catalyst | Ni | [Ni] | Ni
product | 2-Amino-2-(3-bromo-phenyl)-propane-1,3-diol | NC(CO)(CO)C1=CC(=CC=C1)Br | C9H12BrNO2
